Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([CH:7]([OH:8])[c:9]2[cH:10][n:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:25]3[cH:30][cH:29][cH:28][cH:27][cH:26]3)[c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[cH:31][n:32]2)[cH:33][cH:34][c:35]2[cH:36][c:37]([C:38]([CH3:39])([CH3:40])[CH3:41])[cH:42][cH:43][c:44]12>>[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([C:7](=[O:8])[c:9]2[cH:10][n:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][cH:30]3)[cH:31][n:32]2)[cH:33][cH:34][c:35]2[cH:36][c:37]([C:38]([CH3:39])([CH3:40])[CH3:41])[cH:42][cH:43][c:44]12,[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([CH:7]([OH:8])[c:9]2[cH:10][n:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][cH:30]3)[cH:31][n:32]2)[cH:33][cH:34][c:35]2[cH:36][c:37]([C:38]([CH3:39])([CH3:40])[CH3:41])[cH:42][cH:43][c:44]12.O[Cr:301]([OH:302])(=[O:303])=O>>[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([C:7](=[O:8])[c:9]2[cH:10][n:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][cH:30]3)[cH:31][n:32]2)[cH:33][cH:34][c:35]2[cH:36][c:37]([C:38]([CH3:39])([CH3:40])[CH3:41])[cH:42][cH:43][c:44]12,Jones_oxidation,"[(8, 301), ([301, 303], 303), (303, [303, 301]), ([301, 302], 8.1), ([8.1, 8], 8), ([301, 303], 7.1), ([7.1, 7], [7, 8]), ([8, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH3:2])[CH3:3].[F:4][c:5]1[cH:6][c:7]([O:8][CH:9]2[CH2:10][CH2:11][NH:12][CH2:13][CH2:14]2)[cH:15][cH:16][c:17]1[Br:18]>>[CH:1]([CH3:2])([CH3:3])[N:12]1[CH2:11][CH2:10][CH:9]([O:8][c:7]2[cH:6][c:5]([F:4])[c:17]([Br:18])[cH:16][cH:15]2)[CH2:14][CH2:13]1,[F:4][c:5]1[cH:6][c:7]([O:8][CH:9]2[CH2:10][CH2:11][NH:12][CH2:13][CH2:14]2)[cH:15][cH:16][c:17]1[Br:18].[O:101]=[C:1]([CH3:2])[CH3:3].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]([CH3:2])([CH3:3])[N:12]1[CH2:11][CH2:10][CH:9]([O:8][c:7]2[cH:6][c:5]([F:4])[c:17]([Br:18])[cH:16][cH:15]2)[CH2:14][CH2:13]1,reductive_amination,"[(12, 1), ([1, 101], 301), (101, 12.1), ([12.1, 12], 12), (12, [12, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 12], 12)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3](-[c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[c:10]([Cl:11])[cH:12]2)[n:13][o:14][cH:15]1)=[O:16].[CH3:17][c:18]1[cH:19][c:20]([C:21]2([OH:22])[CH2:23][CH2:24][NH:25][CH2:26]2)[cH:27][cH:28][c:29]1[F:30]>>[C:1]([c:2]1[c:3](-[c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[c:10]([Cl:11])[cH:12]2)[n:13][o:14][cH:15]1)(=[O:16])[N:25]1[CH2:24][CH2:23][C:21]([c:20]2[cH:19][c:18]([CH3:17])[c:29]([F:30])[cH:28][cH:27]2)([OH:22])[CH2:26]1,[OH:101][C:1]([c:2]1[c:3](-[c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[c:10]([Cl:11])[cH:12]2)[n:13][o:14][cH:15]1)=[O:16].[CH3:17][c:18]1[cH:19][c:20]([C:21]2([OH:22])[CH2:23][CH2:24][NH:25][CH2:26]2)[cH:27][cH:28][c:29]1[F:30].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3](-[c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[c:10]([Cl:11])[cH:12]2)[n:13][o:14][cH:15]1)(=[O:16])[N:25]1[CH2:24][CH2:23][C:21]([c:20]2[cH:19][c:18]([CH3:17])[c:29]([F:30])[cH:28][cH:27]2)([OH:22])[CH2:26]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (25, 1), ([1, 16], 16), (303, 25.1), ([25.1, 25], 25), (16, [16, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
